data/mechanism_extracts/OrgLett/10.1021_acs.orglett.5c01237_sup_1.json
{"doi": "10.1021_acs.orglett.5c01237_sup_1", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical three-component coupling of 1,3-dicarbonyls (e.g., dibenzoylmethane) with styrenes and water to give β-functionalized γ-acyloxy ketones via radical-polar crossover and an oxocarbenium intermediate", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "carbocation"], "electrochemical_role": "Anodic oxidation of the deprotonated 1,3-dicarbonyl enolate to a C-centered radical that adds to styrene; subsequent anodic oxidation of the benzylic radical to a benzylic cation. Cathode reduces H2O to OH- + H2, providing base and the oxygen nucleophile.", "key_intermediates": [{"name": "1,3-dicarbonyl enolate anion (I)", "smiles": "[O-]C(=C(C(=O)c1ccccc1)C(=O)c1ccccc1)", "role": "transient"}, {"name": "1,3-dicarbonyl C-centered radical (II)", "smiles": "O=C(c1ccccc1)[CH]C(=O)c1ccccc1", "role": "reactive"}, {"name": "benzylic radical adduct after styrene addition (III)", "smiles": "O=C(c1ccccc1)C(C(=O)c1ccccc1)C[CH]c1ccccc1", "role": "reactive"}, {"name": "benzylic carbocation (IV)", "smiles": "O=C(c1ccccc1)C(C(=O)c1ccccc1)C[CH+]c1ccccc1", "role": "reactive"}, {"name": "cyclic oxocarbenium intermediate (V)", "smiles": null, "role": "reactive"}, {"name": "hemiketal/lactol (VI) after OH- addition", "smiles": null, "role": "transient"}, {"name": "ring-opened benzoate carboxylate (VII)", "smiles": null, "role": "transient"}, {"name": "γ-benzoyloxy ketone product 3aa", "smiles": "O=C(OC(c1ccccc1)CCC(=O)c1ccccc1)c1ccccc1", "role": "reactive"}], "electron_flow": "Cathode reduces H2O to OH- + H2; OH- deprotonates the 1,3-dicarbonyl, the resulting enolate is oxidized at the anode to a C-radical that adds to styrene; the benzylic radical is oxidized again at the anode to a benzylic cation, which is trapped intramolecularly by a carbonyl oxygen to give an oxocarbenium that is opened by water/OH- to deliver the γ-acyloxy ketone.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "TEMPO-adduct of the 1,3-dicarbonyl radical isolated in 55%; product 3aa formed only in trace amounts, supporting a radical pathway"}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "BHT-adduct 1a'' detected by HRMS; product 3aa not observed, supporting radical intermediate"}, {"name": "D2O", "smiles": "[2H]O[2H]", "purpose": "isotope_label", "observation": "Product formed with 99% deuterium incorporation, confirming moisture (H2O) is the proton/O-H source"}, {"name": "H2-18O", "smiles": "[18OH2]", "purpose": "isotope_label", "observation": "18O incorporation into the benzoate oxygen of product detected by HRMS (m/z 369.1369, calcd 369.1353 for C23H20-16O2-18O1Na), confirming water as the oxygen source"}, {"name": "ethyl benzoylacetate 1a1 + α-methylstyrene 2p (H2O)", "smiles": null, "purpose": "intermediate_trap", "observation": "γ-butyrolactone d1 (C18H17O3, [M+H]+ 281.1172) detected by NMR/HRMS, consistent with OH- opening of the proposed oxocarbenium"}, {"name": "MeOH (in place of H2O) with 1a + 2p", "smiles": "CO", "purpose": "intermediate_trap", "observation": "Methyl ether adduct d2 (C25H25O3, [M+H]+ 372.1784) detected by HRMS, confirming nucleophilic trapping of the oxocarbenium intermediate"}, {"name": "divided cell experiment", "smiles": null, "purpose": "other", "observation": "Case 1 gave 3aa in 60%; Case 2 gave no product, indicating both anodic and cathodic processes are required"}, {"name": "cyclic voltammetry", "smiles": null, "purpose": "redox_probe", "observation": "CV of 1a and 2a in CH3CN:H2O with Bu4PF6 used to establish oxidation potentials and order of electron transfer"}], "evidence_types_used": ["H/D_labeling", "intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "cyclic_voltammetry", "product_isotope_distribution", "isolation_of_intermediate"], "evidence_strength": "strong", "notes": "An alternative pathway shown in the proposed cycle leads to allylic/olefinic product 5aa via HAT/elimination from intermediate III' (formed when the dicarbonyl radical adds to a terminal alkene 4a instead of styrene), suggesting competing oxocarbenium ring-closure (V') vs β-H elimination depending on substrate. The favored pathway for styrenes goes through benzylic cation IV → cyclic oxocarbenium V → lactol VI → ring-opened benzoate VII → product 3aa."}
